US06884821B1
402 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate was dissolved in 5 ml acetonitrile, and 200 mg N-bromosuccimide was added. After stirring at room temperature for 1 hour, the reaction mixture was diluted with ethyl acetate. The organic layer was successively washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was purified by silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (5:1), 433 mg of ethyl 3-(3-bromo-5-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate was obtained.

reactant | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate | 402 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1O)CC(C(=O)OCC)OC(C)C | C20H31NO6
reactant | N-bromosuccimide | 200 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(3-bromo-5-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate | 433 mg | BrC=1C=C(C=C(C1O)CNC(=O)OC(C)(C)C)CC(C(=O)OCC)OC(C)C | C20H30BrNO6
